US09315475B2
Step 2. tert-Butyl (2,5-difluorophenyl)carbamate
Di-tert-butyl (2,5-difluorophenyl)imidodicarbonate (1.48 g, 4.49 mmol) was dissolved in DCM (15.0 mL) at rt. TFA (0.48 mL, 6.28 mmol) was added to the reaction and the contents were stirred for 1 h. LC/MS at this time shows that starting material has been consumed. The solution was then washed with saturated aqueous sodium bicarbonate. The organics were dried over MgSO4 filtered and concentrated. The crude product was purified on silica gel, eluting with 0-50% EtOAc in hexanes over 32 minutes to afford the title compound (758 mg, 2.88 mmol) as a pale yellow oil. MS (ESI): m/z=174.2 (M+H-[t-Bu]).

reactant | Di-tert-butyl (2,5-difluorophenyl)imidodicarbonate | 4.49 mmol, 1.48 g | FC1=C(C=C(C=C1)F)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C16H21F2NO4
reactant | TFA | 6.28 mmol, 0.48 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 15.0 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl (2,5-difluorophenyl)carbamate | 2.88 mmol, 758 mg | FC1=C(C=C(C=C1)F)NC(OC(C)(C)C)=O | C11H13F2NO2
